US06943159B1
7-Amino-1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide:
A stirred solution of 7-nitro-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide (167 mg; 0.6 mmol) in dry THF (2 ml) at −50° C. was added LiAlH4 (115 mg; 3 mmol) in one portion. The reaction mixture was allowed to warm up to rt. and stirred over night. The reaction mixture was quenched by addition of H2O and 10 M NaOH, stirred, filtered through celite and evaporated to dryness to give 150 mg product.

reactant | 7-nitro-1,2,3,3a,4,5-hexahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 0.6 mmol, 167 mg | [N+](=O)([O-])C1=CC2=C(N3C(NS2(=O)=O)CCC3)C=C1 | C10H11N3O4S
reactant | LiAlH4 | 3 mmol, 115 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7-Amino-1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | 150 mg | NC1=CC2=C(N3C(=NS2(=O)=O)CCC3)C=C1 | C10H11N3O2S
